*cicsimgen op

.option SEED=1

*Nothing here

.param mc_mm_switch=0
.param mc_pr_switch=0
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__tt.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/corners/tt/nonfet.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__npn_05v5__t.corner.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/all.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.include "/opt/pdk/share/pdk/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice"

.lib "../../../tech/ngspice/temperature.spi" Tt

.lib "../../../tech/ngspice/supply.spi" Vt

*TB TELESCOPIC — operating point
.include ../../../work/xsch/TELESCOPIC.spice
.option TNOM=27 GMIN=1e-12 reltol=1e-3 srcsteps=20 itl1=500 itl6=300

.param vcm       = '0.9'
.param ibias_val = 10u

VSS    VSS    0      dc 0
VDD    VDD    0      dc {vdda}
VVIP   VIP    0      dc {vcm}
VVIN   VIN    0      dc {vcm}
IIBIAS VSS    IBIAS  dc {ibias_val}
* CL only to keep node defined
CLO    VOUT   VSS    2p
* DC-only bias clamp: pin VOUT=VCM via huge inductor (open at AC)
LBIAS  VOUT   nbias  1G
VBIAS_OUT nbias VSS dc {vcm}
.include ../xdut.spi

.nodeset v(ibias)        = 0.7
.nodeset v(xdut.ntail)   = 0.25
.nodeset v(xdut.nd1)     = 0.45
.nodeset v(xdut.nd2)     = 0.45
.nodeset v(xdut.na)      = 1.05
.nodeset v(xdut.np2)      = 1.55
.nodeset v(vout)         = {vcm}
* Force symmetric startup with .ic
.ic v(xdut.nd1)=0.40 v(xdut.nd2)=0.40 v(vout)={vcm} v(xdut.na)=1.20 v(xdut.np2)=1.40

.save all

.control
set num_threads=8
unset askquit
set filetype=ascii

* Settle then OP
tran 1n 50u uic
op

print v(ibias) v(vout) v(xdut.ntail) v(xdut.nd1) v(xdut.nd2) v(xdut.na) v(xdut.np2)

echo "==== M1 (input pair) ===="
print @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[gm] @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[gds]
print @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[id] @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[vgs]
print @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[vds] @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[vth]

echo "==== M3 (NMOS cascode left) ===="
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[gm] @m.xdut.xm3.msky130_fd_pr__nfet_01v8[gds]
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vds] @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vgs]
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[vth]

echo "==== M4 (NMOS cascode right - output) ===="
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[gm] @m.xdut.xm4.msky130_fd_pr__nfet_01v8[gds]
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vds] @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vgs]
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[vth]

echo "==== M5 (PMOS cascode output) ===="
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[gm] @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[gds]
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[vds] @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[vgs]
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[vth]

echo "==== M6 (PMOS mirror diode) ===="
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8_lvt[gm] @m.xdut.xm6.msky130_fd_pr__pfet_01v8_lvt[gds]
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8_lvt[id] @m.xdut.xm6.msky130_fd_pr__pfet_01v8_lvt[vds]
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8_lvt[vgs] @m.xdut.xm6.msky130_fd_pr__pfet_01v8_lvt[vth]

echo "==== M7 (PMOS mirror) ===="
print @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[gm] @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[gds]
print @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[id] @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[vds]
print @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[vgs] @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[vth]

echo "==== Output impedance budget ===="
let gm1   = @m.xdut.xm1.msky130_fd_pr__nfet_01v8_lvt[gm]
let gm4   = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[gm]
let gds4  = @m.xdut.xm4.msky130_fd_pr__nfet_01v8[gds]
let gds2  = @m.xdut.xm2.msky130_fd_pr__nfet_01v8_lvt[gds]
let gm5   = @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[gm]
let gds5  = @m.xdut.xm5.msky130_fd_pr__pfet_01v8_lvt[gds]
let gds7  = @m.xdut.xm7.msky130_fd_pr__pfet_01v8_lvt[gds]
let ro2   = 1/gds2
let ro4   = 1/gds4
let ro5   = 1/gds5
let ro7   = 1/gds7
let Rdn   = gm4*ro4*ro2          $ NMOS cascode looking up from VOUT
let Rup   = gm5*ro5*ro7          $ PMOS cascode looking down from VOUT
let RL    = 100k
let Rout  = 1/(1/Rdn + 1/Rup + 1/RL)
let Avo   = gm1 * Rout
let Avo_db = 20*log10(abs(Avo))
print gm1 gm4 gm5
print ro2 ro4 ro5 ro7
print Rdn Rup
print RL Rout
print Avo Avo_db

* Total supply current
let i_vdd = -i(vdd)
let p_supply = i_vdd * v(vdd)
print i_vdd p_supply

write op_SchGtKttTtVt.raw
quit
.endc
.end

